US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-1,3-thiazol-2-ylbenzamide
10% Hydrochloric acid (1 mL) was added to a solution of 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-1,3-thiazol-2-ylbenzamide (284 mg, 0.5 mmol) in methanol (10 mL). The reaction was stirred at RT for 1 hour, saturated sodium bicarbonate solution added and the methanol evaporated. The aqueous residue was taken to pH 2 and extracted with ethyl acetate. The extracts were combined, washed with brine, dried (MgSO4), filtered, and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with 1% methanol in ethyl acetate, to give the desired compound (113 mg).

reactant | Hydrochloric acid | 1 mL | Cl | ClH
reactant | 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-1,3-thiazol-2-ylbenzamide | 0.5 mmol, 284 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC=3SC=CN3)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C29H37N3O5SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-1,3-thiazol-2-ylbenzamide | 113 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC=3SC=CN3)C=C(C2)O[C@H](CO)C)C=C1 | C23H23N3O5S
